US04721710
(a) 2-(-chloro ethyl) 2-propyl pentane nitrile
To the solution (245 ml) of 1,6M n butyllithium in hexane is added, drop by drop in an atmosphere of nitrogen and with stirring, the solution of 28.8 g of diethylamine in 100 ml of anhydrous ether. After 1 hour, the solution of 49.2 g of 2-propyl pentane nitrile in 100 ml of anhydrous ether is added at ambient temperature then, after return to ambient temperature, the solution of 49.1 g of 1-bromo 2-chloro ethane in 700 ml of anhydrous ether is added. The mixture is taken to reflux for 15 hours then, whilst cooling the reaction mixture in an ice bath, water is added. The organic phase is separated, washed with water, then with a dilute solution of hydrochloric acid and again with water. It is dried over sodium sulfate and the solvent is evaporated. The residue is distilled and a liquid is obtained; b.p./20 mm Hg: 140°-150° C.

reactant | butyllithium | C(CCC)[Li]
reactant | diethylamine | 28.8 g | C(C)NCC | C4H11N
reactant | 2-propyl pentane nitrile | 49.2 g | C(CC)C(C#N)CCC | C8H15N
reactant | 1-bromo 2-chloro ethane | 49.1 g | BrCCCl | C2H4BrCl
solvent | hexane | CCCCCC | C6H14
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 700 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(-chloro ethyl) 2-propyl pentane nitrile | ClCCC(C#N)(CCC)CCC | C10H18ClN
